US08003649B2
A mixture of 1-(4-cyanobenzyl)-piperazine (0.158 g, 0.79 mmol) and 6-chloro-8-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine 0.062 g, 0.26 mmol) in ethanol (5 mL) was heated to 70° C. for 20 hours. The reaction mixture was allowed to cool and then concentrated to give an involatile residue that was purified by flash chromatography on silica-gel using an increasing gradient of ethyl acetate in dichloromethane to give 4-((4-(8-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperazin-1-yl)methyl)benzonitrile (0.0676 g, 64.3%) as a white solid; 1H NMR spectrum (CDCl3) δ 2.47-2.55 (4H, m), 2.61 (3H, d), 3.50-3.60 (6H, m), 6.72-6.76 (1H, m), 7.42 (2H, d), 7.57 (2H, d); m/z 402.69 (M+1)+.

reactant | 1-(4-cyanobenzyl)-piperazine | 0.79 mmol, 0.158 g | C(#N)C1=CC=C(CN2CCNCC2)C=C1 | C12H15N3
reactant | 6-chloro-8-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.26 mmol, 0.062 g | ClC=1C=C(C=2N(N1)C(=NN2)C(F)(F)F)C | C7H4ClF3N4
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-((4-(8-methyl-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperazin-1-yl)methyl)benzonitrile | 0.0676 g, 64.3% | CC=1C=2N(N=C(C1)N1CCN(CC1)CC1=CC=C(C#N)C=C1)C(=NN2)C(F)(F)F | C19H18F3N7
